US08138178B2
A microwave vial equipped with a flea stirbar was charged with (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (20 mg, 0.047 mmol), 5-bromo-1-(difluoromethyl)pyridin-2(1H)-one (25 mg, 0.113 mmol), Cs2CO3 (27 mg, 0.083 mmol), H2O (0.1 mL) and dry dioxane (1 mL). The mixture was sparged with N2 for 10 min and heated at 110° C. in the microwave for 0.5 h. The mixture was diluted with glacial HOAc (0.1 mL) and MeOH (0.5 mL) and filtered. The filtrate was directly purified by prep HPLC to afford (S)-3-((S)-1-(4-(1-(difluoromethyl)-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one (11.8 mg, 57%) as an oil. LC-MS Method 1 tR=1.55 min, m/z=497, 248; 1H NMR (CDCl3) 1.13 (s, 3H), 1.19 (s, 3H), 1.56 (d, 3H), 2.15-2.35 (s, 4H), 2.42 (m, 2H), 2.88 (m, 1H), 5.71 (q, 1H), 6.64 (d, 1H), 7.04 (d, 2H), 7.18 (d, 2H), 7.30-7.40 (5H), 7.52 (1H), 7.60 (m, 1H), 7.75 (t, 1H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.047 mmol, 20 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 5-bromo-1-(difluoromethyl)pyridin-2(1H)-one | 0.113 mmol, 25 mg | BrC=1C=CC(N(C1)C(F)F)=O | C6H4BrF2NO
reactant | Cs2CO3 | 0.083 mmol, 27 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | H2O | 0.1 mL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-3-((S)-1-(4-(1-(difluoromethyl)-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | 11.8 mg, 57% | FC(N1C=C(C=CC1=O)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)F | C28H30F2N2O4
